US04873339
(2) Production of (3aS,6aR)-1-[(S)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]imidazol-2,4(3H,3aH)-dione
A solution of 3.7 g (15.16 mmol) of 1-[(S)-(1-phenylethyl)]-1H-furo[3,4-d]imidazol-2,4 (3H,6H)-dione in 100 ml of acetic acid is placed in a 250-ml autoclave and 0.4 g of palladium on activated carbon (5 percent) was added. Then the autoclave was flushed twice successively with hydrogen and filled to 50 bars. This mixture was stirred for 15 hours at room temperature. The catalyst was then filtered off. The solvent was evaporated at 20 mbars and the residue was chromatographed over silica gel with ethyl acetate, 2.0 g (54 percent yield) of the title product was eluted. Recrystallization in methanol yields white needles. Concerning the product:

reactant | 1-[(S)-(1-phenylethyl)]-1H-furo[3,4-d]imidazol-2,4 (3H,6H)-dione | 15.16 mmol, 3.7 g | C1(=CC=CC=C1)[C@H](C)N1C(NC2=C1COC2=O)=O | C13H12N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
catalyst | palladium on activated carbon | 0.4 g | [Pd] | Pd
product | (3aS,6aR)-1-[(S)-(1-phenylethyl)]-dihydro-1H-furo[3,4-d]imidazol-2,4(3H,3aH)-dione | 2.0 g, 54 percent yield | C1(=CC=CC=C1)[C@H](C)N1C(N[C@H]2[C@@H]1COC2=O)=O | C13H14N2O3
